US07622502B2
Step 2: 4,5-bis(nitrooxy)pentyl (2Z)-4(acetyloxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate
To a solution of 1.72 g of (2Z)-4-(acetyloxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid in 20 mL of CH2Cl2 at 0° C. was added 1.06 g of 4,5-bis(nitrooxy)pentyl alcohol, 225 mg of DMAP and 970 mg of EDCI. The mixture was stirred at RT for 2 h then quenched by addition of NH4Cl sat., extracted with EtOAc, washed with NaHCO3 sat., brine and dried over sodium sulfate. Purification by flash chromatography afforded 1 g of the titled compound as a white solid. 1H NMR (acetone-d6, 500 MHz): δ 7.77 (d, 2H), 7.43 (d, 2H), 7.18-7.16 (m, 3H), 7.08 (dd, 2H), 5.53-5.50 (m, 1H), 5.20 (s, 1H), 4.97 (dd, 1H), 4.69 (dd, 1H), 4.31 (m, 2H), 3.05 (s, 2H), 1.89 (m, 7H).

reactant | (2Z)-4-(acetyloxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid | 1.72 g | C(C)(=O)OC\C(=C(/C(=O)O)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C19H18O6S
reactant | 4,5-bis(nitrooxy)pentyl alcohol | 1.06 g | [N+](=O)([O-])OC(CCCO)CO[N+](=O)[O-] | C5H10N2O7
reactant | EDCI | 970 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 225 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4,5-bis(nitrooxy)pentyl (2Z)-4(acetyloxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate | 1 g | C(C)(=O)OC\C(=C(/C(=O)OCCCC(CO[N+](=O)[O-])O[N+](=O)[O-])\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C24H26N2O12S
